US04898874
5-Chloro-3-(4-chlorophenyl)-7-methyl-2,1-benzisoxazole
A solution of 300 ml of glacial acetic acid and 150 ml of 30% hydrogen peroxide was heated on a steam bath for 1 hr, cooled, and treated with 28.0 g (0.1 mole) of (2-amino-5-chloro-3-methylphenyl)(4-chlorophenyl)methanone. The mixture was heated to 95° C. and 450 ml of acetic acid was added to dissolve all solids. The stirred mixture was heated at 60°-70° C. for 5 hr, poured into 2.5 liters of water and let stand at ambient temperature overnight. The solid was collected by filtration, washed with water and recrystallized from 2-propanol to yield 12.3 g (44%) of fluffy, off-white solid, m.p. 151°-152° C.

reactant | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 150 ml | OO | H2O2
reactant | (2-amino-5-chloro-3-methylphenyl)(4-chlorophenyl)methanone | 0.1 mole, 28.0 g | NC1=C(C=C(C=C1C)Cl)C(=O)C1=CC=C(C=C1)Cl | C14H11Cl2NO
reactant | acetic acid | 450 ml | C(C)(=O)O | C2H4O2
solvent | water | 2.5 liters | O | H2O
product | 5-Chloro-3-(4-chlorophenyl)-7-methyl-2,1-benzisoxazole | ClC=1C=C(C=2C(=C(ON2)C2=CC=C(C=C2)Cl)C1)C | C14H9Cl2NO
